US05126344
Potassium t-butoxide (25.8 g) was added portionwise over 20 minutes to a solution of 2-(trimethylsilyl)ethanol (20.8 g) and 2-chloro-5-nitropyridine (27.8 g) in DMF (170 ml). The mixture was stirred for 18 hours and then poured into ice-water (900 ml). The mixture was extracted with ethyl acetate (3×300 ml) and the extracts were washed with water (200 ml), followed by saturated sodium chloride solution (200 ml) and dried (MgSO4). Volatile material was removed by evaporation to give 5-nitro-2-[2-(trimethylsilyl)ethoxy]pyridine (34.9 g) as an oil; NMR: 0.05(s,9H), 1.1-1.2(m,2H), 4.45-4.55(m,2H), 6.75(d,1H), 8.3(dd,1H), 9.05(d,1H).

reactant | Potassium t-butoxide | 25.8 g | CC(C)([O-])C.[K+]
reactant | 2-(trimethylsilyl)ethanol | 20.8 g | C[Si](CCO)(C)C | C5H14OSi
reactant | 2-chloro-5-nitropyridine | 27.8 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 170 ml | CN(C)C=O | C3H7NO
product | 5-nitro-2-[2-(trimethylsilyl)ethoxy]pyridine | 34.9 g | [N+](=O)([O-])C=1C=CC(=NC1)OCC[Si](C)(C)C | C10H16N2O3Si
